US04079081
The required β-methylaminoethyltriphenylphosphonium bromide was prepared by heating a mixture of β-phenoxyethyltriphenyl phosphonium-bromide (46.2 g.) dissolved in ethanol (80 ml.) and 33% ethanolic methylamine (130 ml.) in an autoclave at 100° C for 3 hours. After cooling, the produce was precipitated by addition of dry ether (2 l.) filtered, washed with ether and dried, and had a melting point of 226° C.

reactant | β-phenoxyethyltriphenyl phosphonium-bromide | 46.2 g | [Br-].O(C1=CC=CC=C1)CC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | methylamine | 130 ml | CN | CH5N
solvent | ethanol | 80 ml | C(C)O | C2H6O
product | β-methylaminoethyltriphenylphosphonium bromide | [Br-].CNCC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | InChI=1S/C21H23NP.BrH/c1-22-17-18-23(19-11-5-2-6-12-19,20-13-7-3-8-14-20)21-15-9-4-10-16-21;/h2-16,22H,17-18H2,1H3;1H/q+1;/p-1
